US05696268
Synthesis of t-butyl 2-[N-(1,4-dihydro-5-methoxycarbonyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyridine-3-carbonyl)amino]acetate:
More specifically, a dried methylene chloride solution containing 394 mg (1 mmol) of 1,4-dihydro-5-methoxycarbonyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyridine-3-carboxylate, 309 mg (1.5 mmol) of dicyctohexylcarbodiimide and 134 mg (1.1 mmol) of dimethylaminopyridine was stirred for one hour. To this reaction mixture, 157 mg (1.2 mmol) of glycine t-butyl ester was added and the reaction mixture was refluxed for 2 hours. Insoluble components were removed from the reaction mixture by filtration and the reaction mixture was chromatographed on a silica gel column for purification, whereby 508 mg (100%) of the captioned compound was obtained as an oily material.

reactant | 1,4-dihydro-5-methoxycarbonyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyridine-3-carboxylate | 1 mmol, 394 mg | COC(=O)C=1C(C(=C(NC1C)C1=CC=CC=C1)C(=O)[O-])C1=CC(=CC=C1)[N+](=O)[O-]
reactant | dimethylaminopyridine | 1.1 mmol, 134 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | glycine t-butyl ester | 1.2 mmol, 157 mg | C(C)(C)(C)OC(CN)=O | C6H13NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | t-butyl 2-[N-(1,4-dihydro-5-methoxycarbonyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyridine-3-carbonyl)amino]acetate | 508 mg, 100% | COC(=O)C=1C(C(=C(NC1C)C1=CC=CC=C1)C(=O)NCC(=O)OC(C)(C)C)C1=CC(=CC=C1)[N+](=O)[O-] | C27H29N3O7
